US07820699B2
72.2 Using general method H. 5-chloro-thiophene-2-carboxylic acid ((S)-1-pyrrolidin-3-ylmethyl)-amide trifluoro acetate was reacted with [2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester to give (R)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid[2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-amide. White solid. MS 481.3 ([M+H]+)

reactant | 5-chloro-thiophene-2-carboxylic acid ((S)-1-pyrrolidin-3-ylmethyl)-amide trifluoro acetate | FC(C(=O)O)(F)F.N1C[C@H](CC1)CNC(=O)C=1SC(=CC1)Cl
reactant | [2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=C(C=C(C=C1)N1C(COCC1)=O)F)=O | C17H14FN3O6
product | (R)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid[2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-amide | FC1=C(C=CC(=C1)N1C(COCC1)=O)NC(=O)N1C[C@H](CC1)CNC(=O)C=1SC(=CC1)Cl | C21H22ClFN4O4S
